US08633173B2
{8-[2-(2,2-Difluoro-ethoxy)-5-difluoromethyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-(2,3,4,5-tetrahydro-1H-3-benzazepin-7yl)-amine was prepared from 7-{8-[2-(2,2-difluoro-ethoxy)-5-difluoromethyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester and trifluoroacetic acid (0.5 mL) in a manner analogous to Example 312 to give product (0.111 g). MP=92-93° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.47 (s, 1H), 8.78 (d, 1H), 7.90 (s, 1H), 7.65 (m, 2H), 7.42 (m, 3H), 7.05 (m, 2H), 7.02 (br m, 1H), 6.30 (br m, 1H), 4.42 (m, 2H), 2.76 (br m, 9H). MS=486 (MH)+.

reactant | 7-{8-[2-(2,2-difluoro-ethoxy)-5-difluoromethyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC(=C1)C(F)F)OCC(F)F)=N2 | C30H31F4N5O3
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | {8-[2-(2,2-Difluoro-ethoxy)-5-difluoromethyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-(2,3,4,5-tetrahydro-1H-3-benzazepin-7yl)-amine | FC(COC1=C(C=C(C=C1)C(F)F)C=1C=2N(C=CC1)N=C(N2)NC2=CC1=C(CCNCC1)C=C2)F | C25H23F4N5O
